2129-12-31 05:23:00 Physician Resident Progress Note
Chief Complaint: pancreatitis, ETOH withdrawal
   This morning he is less sedated and more agitated, requiring
   restraints.
   24 Hour Events:
   - tube placed for frequent stooling.
   - becoming more arousable: speaking somewhat coherently.
   - culture data from [**Hospital3 **] ([**Telephone/Fax (1) 10819**]: blood culture from
   [**12-27**]: 1 bottle with GPCs in cluster, also 2 bottles from [**12-26**] with no
   growth
   -post pyloric feeding tube placed and started tube feeds
   - PICC at least in right atrium. IV team will pull back if they have
   specific instructions re distance, CXR ordered for am
   -cdiff negative
   -vanc given again: trough 4.6
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   History obtained from [**Hospital 31**] Medical recordsMorphine
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-12-30**] 09:00 PM
   Meropenem - [**2129-12-30**] 10:02 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-12-30**] 08:11 AM
   Hydromorphone (Dilaudid) - [**2129-12-31**] 12:02 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-31**] 12:08 AM
   Diazepam (Valium) - [**2129-12-31**] 04:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: Diarrhea
   Psychiatric / Sleep: Agitated, Delirious
   Flowsheet Data as of  [**2129-12-31**] 05:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 106 (99 - 117) bpm
   BP: 125/83(91) {111/53(66) - 141/95(103)} mmHg
   RR: 23 (0 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  3,489 mL
                                                                    139 mL
   PO:
             TF:
                                                                     48 mL
                                                                     86 mL
   IVF:
                                                                  3,441 mL
                                                                     53 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    350 mL
   Urine:
                                                                  1,435 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,054 mL
                                                                   -211 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Anxious
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, No(t)
   Oriented (to): not oriented to year or month, inattentive, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   Hematology
   [1][image001.gif]   COMPLETE BLOOD COUNT
                                     WBC
                                     RBC
                                     Hgb
                                     Hct
                                     MCV
                                     MCH
                                    MCHC
                                     RDW
                                   Plt Ct
   [2][**2129-12-31**] 04:10AM
                                    22.0*
                                    4.04*
                                    12.4*
                                    34.8*
                                     86
                                    30.6
                                    35.5*
                                    12.6
                                     264
   [3][image001.gif]   RENAL & GLUCOSE
                                   Glucose
                                    UreaN
                                    Creat
                                     Na
                                      K
                                     Cl
                                    HCO3
                                    AnGap
   [4][**2129-12-31**] 04:10AM
                                   126*[1]
                                     12
                                     0.7
                                     139
                                     3.3
                                     103
                                     23
                                     16
   Ca: 8.3 Mg: 1.9 P: 3.7
   ALT: 26
   AP: 98
   Tbili: 0.9
   Alb: 3.0
   AST: 24
   LDH: 378
   Dbili:
   TProt:
   [**Doctor First Name 92**]:
   Lip: 29
   PT: 13.1
   PTT: 30.2
   INR: 1.1
                             [**2129-12-29**]  04:57 PM
                             [**2129-12-30**]  05:09 AM
   WBC
   16.8
   18.6
   Hct
   38.8
   34.3
   Plt
   283
   248
   Cr
   0.7
   0.7
   Glucose
   144
   122
   Other labs: PT / PTT / INR:14.0/30.5/1.2, ALT / AST:35/31, Alk Phos / T
   Bili:97/0.8, Amylase / Lipase:/24, Differential-Neuts:90.3 %, Lymph:6.2
   %, Mono:2.0 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.1 g/dL,
   LDH:480 IU/L, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Imaging: .
   Microbiology: Data from [**Hospital1 3934**]:
   1 bottle with GPCs in cluster, also 2 bottles from [**12-26**] with no growth
   [5][**2129-12-30**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [6][**2129-12-29**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [7][**2129-12-29**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [8][**2129-12-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [9][**2129-12-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   Assessment and Plan
   44Yom with acute necrotizing pancreatitis and ETOH withdrawal.
 DELIRIUM / CONFUSION
   Less over course of day. Agitated this am. Concern for withdrawal from
   ativan.
   -continue diazepam, also gave one time IV this am
   -haldol prn
 PANCREATITIS, ACUTE
   -continue antibiotics until cultures negative
   -continue IVF
   -no longer c/o pain
   -trend lipase
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   Last drink [**12-22**] or [**12-23**]
   -continue MVI, thiamine, folate
   -replete lytes
   -niacin pending
   -tapeing clonidine
Postivie blood culture at OSH
   Speciation and sensitivities pending. Cultures negative here.
   -f/u micro at OSH
   -f/u culture
   -contnue vanc and [**Last Name (un) **] for now
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   stable
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-12-30**] 07:15 PM 20 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2129-12-29**] 04:14 PM
   20 Gauge - [**2129-12-30**] 11:15 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
References
   1. javascript:command('LHBC','expand')
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22);
   3. javascript:command('LCBA','expand')
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);

2129-12-31 11:36:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   44 yr old EtOH abuse, Crohn's
   Admitted with nec pancreatitis, EtOH withdrawal requiring ativan drip /
   CIWA
   Had 1/4 bottles GPC in clusters [**2129-12-28**] from OSH, on vanc/[**Last Name (un) **]
   PICC line inserted too far
   24 Hour Events:
   Ativan drip d/c'd [**12-29**]
   Last drink ~[**12-22**]
   Agitated this AM - tx with valium
   Allergies:
   Morphine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2129-12-31**] 06:00 AM
   Vancomycin - [**2129-12-31**] 09:00 AM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2129-12-31**] 04:45 AM
   Pantoprazole (Protonix) - [**2129-12-31**] 08:45 AM
   Heparin Sodium (Prophylaxis) - [**2129-12-31**] 09:00 AM
   Hydromorphone (Dilaudid) - [**2129-12-31**] 09:56 AM
   Other medications:
   Reviewed, includes folate/thiam/mvi
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-12-31**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**31**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 95 (95 - 117) bpm
   BP: 105/66(75) {105/53(66) - 134/94(101)} mmHg
   RR: 28 (0 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,489 mL
                                                                  1,187 mL
   PO:
             TF:
                                                                     48 mL
                                                                    212 mL
   IVF:
                                                                  3,441 mL
                                                                    975 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    740 mL
   Urine:
                                                                  1,435 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,054 mL
                                                                    447 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///23/
   Physical Examination
   General Appearance: No(t) Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, agitated
   Labs / Radiology
   12.4 g/dL
   264 K/uL
   126 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.3 mEq/L
   12 mg/dL
   103 mEq/L
   139 mEq/L
   34.8 %
   22.0 K/uL
        [image002.jpg]
                             [**2129-12-29**]  04:57 PM
                             [**2129-12-30**]  05:09 AM
                             [**2129-12-31**]  04:10 AM
   WBC
   16.8
   18.6
   22.0
   Hct
   38.8
   34.3
   34.8
   Plt
   [**Telephone/Fax (3) 10823**]
   Cr
   0.7
   0.7
   0.7
   Glucose
   144
   122
   126
   Other labs: PT / PTT / INR:13.1/30.2/1.1, ALT / AST:26/24, Alk Phos / T
   Bili:98/0.9, Amylase / Lipase:/29, Differential-Neuts:90.3 %, Lymph:6.2
   %, Mono:2.0 %, Eos:1.5 %, Lactic Acid:1.6 mmol/L, Albumin:3.0 g/dL,
   LDH:378 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 PANCREATITIS, ACUTE
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 .H/O CROHN'S DISEASE (REGIONAL ENTERITIS)
   44 yr old EtOH abuse, Crohn's, admitted with necrotizing pancreatitis,
   EtOH withdrawal. Required ativan drip / CIWA
   Had 1/4 bottles GPC in clusters [**2129-12-28**] from OSH, on vanc/[**Last Name (un) **]
   Agree with plan to manage acute severe pancreatitis with supportive
   care, hydration, serial labs / exams, RUQ USG here to exclude
   obstruction. Will hold TPN and attempt post-pyloric tube for
   nutritional support. Encephalopathy likely med-related, will give
   banana bag QD, check thiamine and niacin levels, and hold benzos /
   haldol. Febrile, OSH BCX + x1 (may be contaminant) will keep him on
   vanco, get PIVs, d/c PICC, check vanco level, pan culture. Will
   transition clonidine to PNGT and wean slowly. Remainder of plan as
   outlined above.
   ICU Care
   Nutrition:
   Peptamen 1.5 (Full) - [**2129-12-31**] 10:58 AM 30 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2129-12-29**] 04:14 PM
   20 Gauge - [**2129-12-30**] 11:15 AM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  PPI
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill